US09079914B2
Methyl 5-(hydroxymethyl)pyrazine-2-carboxylate 29-(1)
To a solution of methyl 5-formylpyrazine-2-carboxylate (2.47 g) in THF (20 mL) was added sodium borohydride (170 mg) portionwise over 10 mins. After stirring for 1 h, methanol (10 mL) was added. The reaction mixture was stirred for a further 20 mins, and then HCl (1 N, aq., 20 mL) and brine (20 mL) were added. The mixture was extracted with EtOAc (3×40 mL) and the combined organic portions dried over MgSO4 and evaporated to afford the title compound (1.31 g). 1H NMR (400 MHz, CDCl3) δ ppm 4.07 (s, 3H), 4.98 (br. s., 2H), 8.80 (s, 1H), 9.27 (s, 1H)

reactant | methyl 5-formylpyrazine-2-carboxylate | 2.47 g | C(=O)C=1N=CC(=NC1)C(=O)OC | C7H6N2O3
reactant | sodium borohydride | 170 mg | [BH4-].[Na+]
reactant | methanol | 10 mL | CO | CH4O
reactant | HCl | 1 N, 20 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | brine | 20 mL | [Cl-].[Na+].O
product | Methyl 5-(hydroxymethyl)pyrazine-2-carboxylate | 1.31 g | OCC=1N=CC(=NC1)C(=O)OC | C7H8N2O3
